US06043242
a) 2-[(2-Hydroxymethyl-pyridin-4-yl)-methyl-amino]-ethanol
A mixture of (4-chloro-pyridin-2-yl)-methanol (20.0 g, 139 mmol) and 2-methylaminoethanol (11.7 ml, 146 mmol) is stirred for 1 h at 140° C. After cooling to room temperature the viscous oil is employed without additional purification for the synthesis described in step b).

reactant | (4-chloro-pyridin-2-yl)-methanol | 139 mmol, 20.0 g | ClC1=CC(=NC=C1)CO | C6H6ClNO
reactant | 2-methylaminoethanol | 146 mmol, 11.7 ml | CNCCO | C3H9NO
product | 2-[(2-Hydroxymethyl-pyridin-4-yl)-methyl-amino]-ethanol | OCC1=NC=CC(=C1)N(CCO)C | C9H14N2O2
